US07906676B2
ethyl 3-ethoxy-5-fluoro-4,4-dimethoxypent-2-enoate (9, R1 and R3=ethyl, R2=methyl)
A mixture of 4-fluoro-3,3-dimethoxy-but-1-yne (4, R2=methyl, 20.0 g, 152 mmol) and diethyl carbonate (20.1 mL, 167 mmol) in DMF (150 mL) was cooled to 0° C., and treated with potassium ethoxide (3.8 g, 45.2 mmol). After stirring at 0° C. for 4 h, the solution was charged with a 1:1 mixture of saturated aqueous NH4Cl and water (200 mL) and extracted with t-butylmethylether (200 mL×2). The combined organic phase was washed with water (100 mL) and dried over anhydrous MgSO4 to give a crude the title compound (9, R1 and R3=ethyl, R2=methyl, 37.8 g, 99.7%, Z:E=6.5:1). (Z)-isomer: 1H NMR (400 MHz, CDCl3) δ 5.84 (s, 1H), 4.48 (d, J=46.8 Hz, 2H), 4.27 (q, J=7.2 Hz, 2H), 4.17 (q, J=7.2 Hz, 2H), 3.26 (s, 6H), 1.32 (t, J=7.2 Hz, 3H), 1.28 (t, J=7.2 Hz, 3H). 13C NMR (100 MHz, CDCl3) δ 164.9, 162.5, 100.7, 99.2 (d, J=30 Hz), 78.5 (d, J=180 Hz), 70.7, 59.7, 48.9, 15.3, 14.0. (E)-isomer: 1H NMR (400 MHz, CDCl3) δ 5.21 (s, 1H), 4.59 (d, J=46.8 Hz, 2H), 4.16 (q, J=7.2 Hz, 2H), 3.82 (q, J=7.2 Hz, 2H), 3.29 (s, 6H), 1.35 (t, J=7.2 Hz, 3H), 1.29 (t, J=7.2 Hz, 3H). 13C NMR (100 MHz, CDCl3) δ 167.2, 157.3, 99.8 (d, J=20 Hz), 97.6, 80.6 (d, J=180 Hz), 64.0, 60.2, 49.4, 14.0.

reactant | 4-fluoro-3,3-dimethoxy-but-1-yne | FCC(C#C)(OC)OC | C6H9FO2
reactant | diethyl carbonate | 167 mmol, 20.1 mL | C(OCC)(OCC)=O | C5H10O3
reactant | potassium ethoxide | 45.2 mmol, 3.8 g | [O-]CC.[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | ethyl 3-ethoxy-5-fluoro-4,4-dimethoxypent-2-enoate | 37.8 g, 99.7% | C(C)OC(=CC(=O)OCC)C(CF)(OC)OC | C11H19FO5
